.SUBCKT irf9333 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 31, 10
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-2.26689 LAMBDA=9.98823e-05 KP=17.2428
+CGSO=9.52212e-06 CGDO=4.85175e-07
RS 8 3 0.0001
D1 1 3 MD
.MODEL MD D IS=2.85806e-10 RS=0.00332802 N=1.1584 BV=30
+IBV=0.00025 EG=1 XTI=1 TT=1e-07
+CJO=4.98512e-10 VJ=0.697379 M=0.504453 FC=0.427045
RDS 3 1 3e+07
RD 9 1 0.0001
RG 2 7 12.4541
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=6.44358e-10 VJ=0.513809 M=0.475088 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.09011e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf9333
*SPICE Thermal Model Subcircuit
.SUBCKT irf9333t 4 0

R_RTHERM1         4 3  8.300377
R_RTHERM2         3 2  19.83165
R_RTHERM3         2 1  19.66568
R_RTHERM4         1 0  2.104089
C_CTHERM1         4 0  0.008485
C_CTHERM2         3 0  0.312542
C_CTHERM3         2 0  0.043194
C_CTHERM4         1 0  0.000699

.ENDS irf9333t


